US05726127
Synthesis of N-t-butyl-3-chloroacetyl-2-thiophenesulfonamide
2.98 g (0.0| mole) of N-t-butyl-3-bromo-2-thiophenesulfonamide was dissolved in 50 ml of dry tetrahydrofura mixture was cooled to -78° C. under nitrogen gas. To the reaction solution was slowly added dropwise 8.4 ml of n-butyl lithium(2.5N) and then the temperature of the mixture was raised slowly to -20° C. and again cooled to -78° C. 1.4 g (0.012 mole) of ethyl chloroacetates was added slowly to the mixture. The temperature of the reaction mixture was raised slowly to -20° C. again and then the mixture was stirred for 10 minutes. To the mixture was added 100 ml of aqueous ammonium chloride solution and then added 100 ml of ethyl acetate to separate the organic layer. The extracted organic layer was dried over anhydrous magnesium sulfate and then concentrated. The residue was subjected to column chromatography on silica gel to obtain 1.9 g (Yield: 69%) of the pure title compound as a liquid.

reactant | N-t-butyl-3-bromo-2-thiophenesulfonamide | 2.98 g | C(C)(C)(C)NS(=O)(=O)C=1SC=CC1Br | C8H12BrNO2S2
reactant | n-butyl lithium | 2.5N, 8.4 ml | C(CCC)[Li]
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | N-t-butyl-3-chloroacetyl-2-thiophenesulfonamide | 1.9 g, Yield: 69% | C(C)(C)(C)NS(=O)(=O)C=1SC=CC1C(CCl)=O | C10H14ClNO3S2
